US08034812B2
Production of 3-(1-cyano-2-cyclopropyl-1-methylethyl)benzoic acid
To a solution of methyl 3-(1-cyano-2-cyclopropyl-1-methylethyl)benzoate (120 mg, 0.49 mmol) in tetrahydrofuran/methanol/water (=3.0 mL/1.0 mL/1.0 mL) was added lithium hydroxide monohydrate (40 mg, 0.99 mmol), and the reaction mixture was stirred at room temperature for 4 hr. The mixture was concentrated under reduced pressure, and the obtained aqueous solution was adjusted to pH 5 by adding 1N hydrochloric acid. The mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=50/50→100/0) to give the title compound (76 mg, 66%) as a colorless oil.

reactant | methyl 3-(1-cyano-2-cyclopropyl-1-methylethyl)benzoate | 0.49 mmol, 120 mg | C(#N)C(CC1CC1)(C)C=1C=C(C(=O)OC)C=CC1 | C15H17NO2
reactant | lithium hydroxide monohydrate | 0.99 mmol, 40 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran methanol water | 3.0 mL | O1CCCC1.CO.O
product | 3-(1-cyano-2-cyclopropyl-1-methylethyl)benzoic acid | 76 mg, 66% | C(#N)C(CC1CC1)(C)C=1C=C(C(=O)O)C=CC1 | C14H15NO2
